US07985764B2
A 587 mg portion of ethyl 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylate was dissolved in 10.5 ml of ethanol, and 3.5 ml of a 1 M sodium hydroxide aqueous solution was added, followed by overnight stirring at 80° C. Under ice-cooling, 1 M hydrochloric acid and water were added thereto, followed by stirring at pH 1 for 1 hour. Then, the resulting solid was collected by filtration to obtain 498 mg of 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylic acid as a pale pink solid.

reactant | ethyl 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylate | C(C)C=1N(C2=CC=C(C=C2C1C)C(=O)OCC)CC1=CC=C(C=C1)F | C21H22FNO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 10.5 ml | C(C)O | C2H6O
product | 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylic acid | 498 mg | C(C)C=1N(C2=CC=C(C=C2C1C)C(=O)O)CC1=CC=C(C=C1)F | C19H18FNO2
